US05059597
e) 2-Methyl-4-oxa-2,8-diazabicyclo[4.3.0]nonane
8.1 g (0.1 mol) of 37% strength formaldehyde solution in 20 ml of n-butanol are added dropwise to 13 g (0.101 mol) of 4-hydroxymethyl-3-methylaminopyrrolidine in 100 ml of n-butanol at room temperature. The mixture is stirred at room temperature overnight and concentrated and the residue is distilled.

reactant | formaldehyde | C=O | CH2O
reactant | 4-hydroxymethyl-3-methylaminopyrrolidine | 0.101 mol, 13 g | OCC1C(CNC1)NC | C6H14N2O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 2-Methyl-4-oxa-2,8-diazabicyclo[4.3.0]nonane | CN1C2CNCC2COC1 | C7H14N2O
